US07985730B2
To tert-butyl [(3R)-1-(4-hydroxy-4-pyridin-2-ylcyclohexyl)pyrrolidin-3-yl]carbamate (50 mg, 0.14 mmol) was added 4.0 M HCl in 1,4-dioxane (3 mL) at rt. After being stirred for 5 minutes, the product was precipitated out. To the mixture was added methanol (0.6 mL) and the solution became mostly clear with some gummy material present. The reaction was completed after 2½ hours as judged by HPLC and LCMS. This resulting mixture was concentrated to give 4-[(3R)-3-aminopyrrolidin-1-yl]-1-pyridin-2-ylcyclohexanol HCl salt (72 mg, 99%). LC/MS: 262.1 (M+H, 100%).

reactant | tert-butyl [(3R)-1-(4-hydroxy-4-pyridin-2-ylcyclohexyl)pyrrolidin-3-yl]carbamate | 0.14 mmol, 50 mg | OC1(CCC(CC1)N1C[C@@H](CC1)NC(OC(C)(C)C)=O)C1=NC=CC=C1 | C20H31N3O3
reactant | HCl | 4.0 M | Cl | ClH
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 4-[(3R)-3-aminopyrrolidin-1-yl]-1-pyridin-2-ylcyclohexanol HCl salt | 72 mg, 99% | Cl.N[C@H]1CN(CC1)C1CCC(CC1)(O)C1=NC=CC=C1 | InChI=1S/C15H23N3O.ClH/c16-12-6-10-18(11-12)13-4-7-15(19,8-5-13)14-3-1-2-9-17-14;/h1-3,9,12-13,19H,4-8,10-11,16H2;1H/t12-,13?,15?;/m1./s1
